US08334286B2
4-Pyrazin-2-yl-butyric acid ethyl ester
Butyllithium (1.6 M in hexane solution, 10 ml, 16 mmol) was added dropwise to a solution of diisopropylamine (2.25 ml, 16 mmol) in anhydrous THF (50 ml) at −20° C. under a nitrogen atmosphere. The mixture was stirred at −20° C. for 30 minutes and after cooling at −70° C. a solution of 2-methyl-pyrazine (1.47 ml, 16 mmol) in THF (10 ml) was added dropwise. After 15 minutes, a solution of 3-bromo-propionic acid ethyl ester (2.54 ml, 19.2 mmol) in THF (10 ml) was added and the mixture maintained at −70° C. for 2 hours and then stirred at room temperature overnight. The reaction was then quenched with a saturated solution of NH4Cl and extracted with ethyl acetate, the organic phase was dried (Na2SO4) and evaporated. The residue was purified by flash chromatography (hexane/ethyl acetate from 9/1 to 1/1 respectively) to give the title compound (1 g, 33% yield).

reactant | Butyllithium | 16 mmol, 1.6 M, 10 ml | C(CCC)[Li]
reactant | diisopropylamine | 16 mmol, 2.25 ml | C(C)(C)NC(C)C | C6H15N
reactant | 2-methyl-pyrazine | 16 mmol, 1.47 ml | CC1=NC=CN=C1 | C5H6N2
reactant | 3-bromo-propionic acid ethyl ester | 19.2 mmol, 2.54 ml | C(C)OC(CCBr)=O | C5H9BrO2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-Pyrazin-2-yl-butyric acid ethyl ester | 1 g, 33% yield | C(C)OC(CCCC1=NC=CN=C1)=O | C10H14N2O2
